US07812021B2
b) [(3SR,4RS)-3-[(RS)-1-(5-Chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidin-1-yl]-[4-(2-dimethylamino-ethyl)-piperazin-1-yl]-methanone
To a stirred solution of (3SR,4RS)-3-[(RS)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl chloride (80 mg, 0.18 mmol) in CH2Cl2 (2 mL) were added Et3N (0.03 mL, 0.15 mmol) and dimethyl-(2-piperazin-1-yl-ethyl)-amine (0.035 mL) (commercially available). Stirring was continued overnight, and the reaction mixture was concentrated under vacuo and directly purified by flash chromatography (SiO2, CH2Cl2/MeOH/NH3, 9/4/1) to yield 36 mg (35%) the title compound as light yellow oil. ES-MS m/e: 553.8 (M+H+).

reactant | (3SR,4RS)-3-[(RS)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl chloride | 0.18 mmol, 80 mg | ClC=1C=CC(=NC1)OC(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)Cl | C18H16Cl4N2O2
reactant | Et3N | 0.15 mmol, 0.03 mL | CCN(CC)CC | C6H15N
reactant | dimethyl-(2-piperazin-1-yl-ethyl)-amine | 0.035 mL | CN(CCN1CCNCC1)C | C8H19N3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [(3SR,4RS)-3-[(RS)-1-(5-Chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidin-1-yl]-[4-(2-dimethylamino-ethyl)-piperazin-1-yl]-methanone | 36 mg, 35% | ClC=1C=CC(=NC1)OC(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)N1CCN(CC1)CCN(C)C | C26H34Cl3N5O2
